US06235771B1
To a suspension of 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid (4.47 g) in THF (90 ml) were added at room temperature thionyl chloride (1.03 ml) and DMF (1 ml), and the mixture was stirred for 1 hour and added dropwise to a solution of 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline (3.41 g) and triethylamine (7.9 ml) in THF (30 ml), at 0° C. The mixture was stirred for 3 hours and concentrated under reduced pressure, to which were added water. Precipitated colorless crystals were collected by filtration, and the crystals were washed with water, ethanol, 2-propanol and diisopropylether to give colorless crystals of 7-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxamide (4.94 g).

reactant | 7-bromo-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxylic acid | 4.47 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)O)C1 | C11H9BrO4S
reactant | thionyl chloride | 1.03 ml | S(=O)(Cl)Cl | Cl2OS
reactant | DMF | 1 ml | CN(C)C=O | C3H7NO
reactant | 4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]aniline | 3.41 g | CN(C1CCOCC1)CC1=CC=C(N)C=C1 | C13H20N2O
solvent | THF | 90 ml | C1CCOC1 | C4H8O
solvent | THF | 30 ml | C1CCOC1 | C4H8O
solvent | triethylamine | 7.9 ml | C(C)N(CC)CC | C6H15N
product | 7-bromo-N-[4-[[N-methyl-N-(tetrahydropyran-4-yl)amino]methyl]phenyl]-1,1-dioxo-2,3-dihydro-1-benzothiepine-4-carboxamide | 4.94 g | BrC=1C=CC2=C(C=C(CCS2(=O)=O)C(=O)NC2=CC=C(C=C2)CN(C2CCOCC2)C)C1 | C24H27BrN2O4S
